US06166010
The procedure is as for Example 85, but 4.0 g (10.3 mmol) of N-(2,6-difluorobenzoyl)-3-amino-3- (3-n-heptylphenyl)-1-propanol are employed instead of N-(2,6-difluorobenzoyl)-3-amino-3-(4-chlorophenyl)-1-propanol. 2.7 g (70.8%) of 2-(2,6-difluorophenyl-4-(3-n-heptylphenyl)-5,6-dihydro(4H)1,3-oxazine are obtained as a colorless oil.

reactant | N-(2,6-difluorobenzoyl)-3-amino-3- (3-n-heptylphenyl)-1-propanol | 10.3 mmol, 4.0 g | FC1=C(C(=O)NC(CCO)C2=CC(=CC=C2)CCCCCCC)C(=CC=C1)F | C23H29F2NO2
reactant | N-(2,6-difluorobenzoyl)-3-amino-3-(4-chlorophenyl)-1-propanol | FC1=C(C(=O)NC(CCO)C2=CC=C(C=C2)Cl)C(=CC=C1)F | C16H14ClF2NO2
product | 2,6-difluorophenyl-4-(3-n-heptylphenyl)-5,6-dihydro(4H)1,3-oxazine | FC1=C(C(=CC=C1)F)C=1OCCC(N1)C1=CC(=CC=C1)CCCCCCC | C23H27F2NO
